US04694084
1 mmol of (s)-2,3-bis[[(3R,7R,11R)-3,7,11,15-tetramethylhexadecyl]oxy]propanol was dissolved in 7.5 ml of toluene and the solution was treated with 1.5 mmol of triethylamine and at 0° C. in the course of 30 minutes with 1.5 mmol of 2-chloro-1,3,2-dioxaphospholan-2-oxide in 2 ml of toluene. The reaction mixture was stirred at room temperature for a further 5 hours, the precipitated hydrochloride was filtered off with the exclusion of moisture and the filtrate was evaporated under reduced pressure. The residue was treated with 7.5 ml of a solution of 4 g of trimethylamine in 100 ml of acetonitrile and reacted at 70° C. overnight in a pressure flask, whereby the product precipitated partially. The solvent was removed under reduced pressure, the residue was dissolved in methanol and passed several times over 20 g of ion exchanger Amberlite MB-3. The solvent was removed and the crude product was chromatographed on silica gel with chloroform/methanol water (60:35:5). There was obtained O-[[(S)-2,3-bis[[(3R,7R,11R)-3,7,11,15-tetramethylhexadecyl]oxy]propyl]hydroxyphosphinyl]choline hydroxide (internal salt) in a yield of 76.6%.

reactant | (s)-2,3-bis[[(3R,7R,11R)-3,7,11,15-tetramethylhexadecyl]oxy]propanol | 1 mmol | C[C@@H](CCO[C@@H](CO)COCC[C@@H](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C)CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C43H88O3
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3,2-dioxaphospholan-2-oxide | 1.5 mmol | ClP1(OCCO1)=O | C2H4ClO3P
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | O-[[(S)-2,3-bis[[(3R,7R,11R)-3,7,11,15-tetramethylhexadecyl]oxy]propyl]hydroxyphosphinyl]choline hydroxide | yield of 76.6% | [OH-].C[C@@H](CCO[C@H](CP(=O)(OCC[N+](C)(C)C)O)COCC[C@@H](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C)CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | InChI=1S/C48H100NO5P.H2O/c1-40(2)20-14-22-42(5)24-16-26-44(7)28-18-30-46(9)32-35-52-38-48(39-55(50,51)54-37-34-49(11,12)13)53-36-33-47(10)31-19-29-45(8)27-17-25-43(6)23-15-21-41(3)4;/h40-48H,14-39H2,1-13H3;1H2/t42-,43-,44-,45-,46-,47-,48+;/m1./s1
